EMI-01 v2 double pulse
.include model.lib
Vbus bus 0 400
Rbus bus p1 0.02
Lbus p1 p 20n
Cbus p1 0 10u
Lload p sw 200u
Rload sw drain 0.005
Vdrain drain d 0
Xlo d g 0 MSC040SMA120B
Xhi p gh drain MSC040SMA120B
Vhi ghdrive drain -3
Rgh ghdrive gh 4.7
Vgate drive 0 PWL(0 -3 1u -3 1.01u 20 10u 20 10.01u -3 12u -3 12.01u 20 14u 20 14.01u -3)
Rg drive g 4.7
.options reltol=1e-5 abstol=1e-9 vntol=1e-7 chgtol=1e-16 method=gear maxord=2 itl1=300 itl4=100
.tran 2.5000000000000002e-10 16u 0 5.0000000000000003e-10
.save v(d) v(g) i(lload) i(vdrain)
.end
